US06136823
Synthesis of 7-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-amidocarboxylic Acid
Ethyl 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (200 mg) was dissolved in N,N-dimethylformamide (4 ml). 28% Aqueous ammonia (1 ml) was added to this solution, and the mixture was stirred overnight at 50° C. in a closed state. Additional 28% aqueous ammonia (2 ml) was added, and the mixture was stirred overnight in the same manner as described above. After the temperature of the reaction mixture was given back to room temperature, it was concentrated to two-thirds under reduced pressure. Red solids deposited were collected by filtration, washed with water and then dried to obtain the title compound (90 mg) as a reddish brown powder.

reactant | Ethyl 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 200 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)F)F | C18H11ClF4N2O3
reactant | ammonia | 1 ml | N | H3N
reactant | ammonia | 2 ml | N | H3N
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 7-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-amidocarboxylic Acid | 90 mg | NC1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)N)=O)F | C16H10ClF3N4O2
